US07504408B2
N-[3-(6-chloro-7-{[6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-yl]amino}-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]morpholine-4-carboxamide
This was prepared by the method described in example 4 using 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline (200 mg, 0.59 mmol), N-[3-(7-amino-6-chloro-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]morpholine-4-carboxamide (220 mg, 0.65 mmol) and a solution of sodium bis(trimethylsilyl)amide (1.0M in THF, 1.24 ml) in DMF (3 ml). The crude product was purified by column chromatography on silica using 10% methanol in dichloromethane as eluent. There was thus obtained the title compound (272 mg, 72%) as a pale brown solid; NMR Spectrum:(DMSOd6) 1.96 (quintet, 2H), 2.39 (m, 4H), 2.47 (t, 2H), 2.50 (m, 4H), 3.55-3.62 (m, 8H), 3.94 (s, 3H), 4.14 (d, 2H), 4.20 (t, 2H), 6.15 (s, 2H), 7.10 (m, 2H), 7.20 (s, 1H), 7.82 (s, 1H), 8.34 (s, 1H), 9.50 (s, 1H); Mass Spectrum: M+H+ 639/641.

reactant | 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline | 0.59 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | N-[3-(7-amino-6-chloro-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]morpholine-4-carboxamide | 0.65 mmol, 220 mg | NC1=C(C=C(C2=C1OCO2)C#CCNC(=O)N2CCOCC2)Cl | C15H16ClN3O4
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 1.24 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-[3-(6-chloro-7-{[6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-yl]amino}-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]morpholine-4-carboxamide | 272 mg, 72% | ClC=1C=C(C2=C(OCO2)C1NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#CCNC(=O)N1CCOCC1 | C31H35ClN6O7
